US07790741B2
A round bottom flask was charged with 2-bromo-1-(2,4,5-trifluorophenyl)ethanone (50.0 g, 198 mmol; Example #N.1), oxazole-2-amine (11.1 g, 132 mmol; GL Synthesis), THF (200 mL), and ACN (330 mL). The resulting mixture was stirred at about 23° C. for about 20 h. The suspension was cooled to about −10° C. for about 15 min and the solid was collected by vacuum filtration, washed with additional ACN (150 mL), and dried under vacuum to give 2-(2-iminooxazol-3(2H)-yl)-1-(2,4,5-trifluorophenyl)ethanone hydrobromide (35.1 g, 79%) as a white solid. A portion of this material (20.0 g, 59.3 mmol) was suspended in toluene (140 mL) and the suspension was cooled to about 0° C. To the flask was added a 1.0 M solution of TiCl4 in toluene (154 mL) over about 30 min. The mixture was stirred at about 0° C. for about 30 min and was then heated to about 100° C. for about 3 h. The mixture was cooled to ambient temperature, the toluene was decanted off, and ice was added with stirring to the remaining residue. The mixture was adjusted to about pH 8 with the addition of solid Na2CO3, followed by the addition of EtOAc. The mixture was stirred for about 1 h and then passed through a pad of Celite®. The layers were separated and the organic solution was dried over MgSO4, filtered, and concentrated to dryness under reduced pressure to give the title compound as a white solid (11.7 g, 83%): LC/MS (Table 1, Method d) Rt=2.11 min; MS m/z 239.1 (M+H)+.

reactant | 2-bromo-1-(2,4,5-trifluorophenyl)ethanone | 198 mmol, 50.0 g | BrCC(=O)C1=C(C=C(C(=C1)F)F)F | C8H4BrF3O
reactant | oxazole-2-amine | 132 mmol, 11.1 g | O1C(=NC=C1)N | C3H4N2O
reactant | THF | 200 mL | C1CCOC1 | C4H8O
solvent | ACN | 330 mL | C(C)#N | C2H3N
product | 2-(2-iminooxazol-3(2H)-yl)-1-(2,4,5-trifluorophenyl)ethanone hydrobromide | 35.1 g, 79% | Br.N=C1OC=CN1CC(=O)C1=C(C=C(C(=C1)F)F)F | InChI=1S/C11H7F3N2O2.BrH/c12-7-4-9(14)8(13)3-6(7)10(17)5-16-1-2-18-11(16)15;/h1-4,15H,5H2;1H
